US06949542B2
8-Chloro-4-(3-pyridin-4-yl-phenyl)-7-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {4-chloro-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-5-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (Example M92) (0.44 g, 0.82 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light orange solid (120 mg, 35%).

reactant | {4-chloro-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-5-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 0.82 mmol, 0.44 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)Cl)NC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O)=O | C26H23ClF3N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-4-(3-pyridin-4-yl-phenyl)-7-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC=NC=C2)=O)C1)C(F)(F)F | C21H13ClF3N3O
